US07745472B2
4-({[Bis-(4-hydroxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino)}-benzonitrile (CAB02070, STX340)
4-{[Bis-(4-benzyloxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02068, 564 mg, 1.0 mmol) was dissolved in ethanol, (50 mL) and palladium on charcoal (50 mg, 10% Pd) was added. The mixture was stirred under hydrogen atmosphere (balloon) for 48 h (TLC monitored) until all starting material was consumed. The Pd/C was filtered off (celite) and the solution was concentrated under reduced pressure. A yellow solid was obtained, which was dissolved in ethyl acetate (10 mL) upon heating. After cooling to room temperature the white precipitate was filtered off and dried under high vacuum. Yield: 312 mg (81%). 1H-NMR (400 MHz, d6-DMSO)=5.74 (s, 2H, 2×—OH); 6.28 (s, 1H), 6.53 (d, J=9.0 Hz, 2H), 6.61 (d, J=8.6 Hz, 4H), 7.10 (d, J=8.6 Hz, 4H), 7.65 (d, J=−9.0 Hz, 2H), 8.83 (s, 2H). LRMS (FAB+): 199.1 (100), 384.1 (50, [M+H]+). LRMS (FAB−) 184.1 (100), 382.1 (41, [M−H]−).

reactant | 4-{[Bis-(4-benzyloxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | 1.0 mmol, 564 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)N(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C36H29N5O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-({[Bis-(4-hydroxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino)}-benzonitrile | OC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)N(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C22H17N5O2
